US04670604
A solution of 1.9 ml of methyl chlorooxalate in 10 ml of methylene chloride is added dropwise to a solution of 2.5 g of 3-aminoanisole and 1.5 ml of pyridine in 40 ml of methylene chloride in the course of 10 minutes. After stirring at room temperature for 3 hours, the mixture is poured onto water and extracted with methylene chloride. The extracts are dried over sodium sulfate and evaporated and the residue is crystallised from ether/hexane. Methyl N-(3-methoxyphenyl)-oxamate is obtained.

reactant | methyl chlorooxalate | 1.9 ml | C(C(=O)OC)(=O)Cl | C3H3ClO3
reactant | 3-aminoanisole | 2.5 g | NC=1C=C(C=CC1)OC | C7H9NO
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Methyl N-(3-methoxyphenyl)-oxamate | COC=1C=C(C=CC1)NC(C(=O)OC)=O | C10H11NO4
